US06191150B1
To a 0° C. solution of (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid (34 mg, 0.12 mmol) in 1 mL anhydrous DMF is added diethyl cyanophosphonate (19 mg, 0.119 mmol) followed by NMM (12 mg). Stirring is continued for 30 min at 0° C. (2S,3R)-2-Amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride (42 mg, 0.119 mmol) is added followed by additional NMM (36 mg). The mixture is heated at 40° C. for 16 h then allowed to cool to 25° C. The reaction mixture is added to half-saturated aqueous sodium chloride and extracted with 1:1 EtOAc-ether. The combined organic layers are washed with pH 4.3 phosphate buffer, 5% aqueous sodium bicarbonate, saturated aqueous sodium chloride, and dried over magnesium sulfate. Concentration and chromatography on silica gel (elution with 5% methanol in dichloromethane) provides 35 mg of (2R,3S)-3-(formyl-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid [(1S,2R)-2-methyl-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide as a foam.

reactant | (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid | 0.12 mmol, 34 mg | C(=O)N([C@H]([C@H](C(=O)O)CC(C)C)C)OC1OCCCC1 | C14H25NO5
reactant | diethyl cyanophosphonate | 0.119 mmol, 19 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | NMM | 12 mg | CN1CCOCC1 | C5H11NO
reactant | (2S,3R)-2-Amino-3-methyl-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride | 0.119 mmol, 42 mg | Cl.S1C(=NC=C1)NC([C@H]([C@@H](CCNCN=N[N+](=O)[O-])C)N)=O
reactant | NMM | 36 mg | CN1CCOCC1 | C5H11NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2R,3S)-3-(formyl-tetrahydropyranyloxyamino)-2-(2-methyl-1-propyl)butanoic acid [(1S,2R)-2-methyl-4-(nitroimino-amino)methylamino-1-(1,3-thiazol-2-ylcarbamoyl)-1-butyl]amide | 35 mg | C[C@@H]([C@@H](C(NC=1SC=CN1)=O)NC([C@@H]([C@H](C)N(OC1OCCCC1)C=O)CC(C)C)=O)CCNCN=N[N+](=O)[O-] | C24H40N8O7S
